US08252781B2
Preparation of 1-[(3-fluoro-2-methylphenyl)carbonyl]-4,4-dimethyl-2-(adamantan-2-yl)-1,2-diazetidin-3-one
A solution of 2-(adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one (50.0 mg, 0.213 mmol) prepared in Process 3 of Example 12 in dichloromethane was added with 3-fluoro-2-methylbenzoic acid (32.8 mg, 0.213 mmol), diisopropylethylamine (82.6 mg, 0.639 mmol) and PyBOP (133 mg, 0.256 mmol) at room temperature, and the resultant was stirred at the same temperature for 18 hours. The reaction solution was added with water and extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate, concentrated in vacuo, the obtained residue was purified using Preparative Thin-Layer chromatography (hexane:ethyl acetate=2:1), and the title compound (6.90 mg, 8.70%) was obtained as a white crystalline solid.

reactant | 2-(adamantan-2-yl)-4,4-dimethyl-1,2-diazetidin-3-one | 0.213 mmol, 50.0 mg | C12C(C3CC(CC(C1)C3)C2)N2NC(C2=O)(C)C | C14H22N2O
reactant | 3-fluoro-2-methylbenzoic acid | 0.213 mmol, 32.8 mg | FC=1C(=C(C(=O)O)C=CC1)C | C8H7FO2
reactant | diisopropylethylamine | 0.639 mmol, 82.6 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | PyBOP | 0.256 mmol, 133 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1-[(3-fluoro-2-methylphenyl)carbonyl]-4,4-dimethyl-2-(adamantan-2-yl)-1,2-diazetidin-3-one | 6.90 mg, 8.70% | FC=1C(=C(C=CC1)C(=O)N1N(C(C1(C)C)=O)C1C2CC3CC(CC1C3)C2)C | C22H27FN2O2
